US07816387B2
N-[(1S,2R)-1-Benzyl-2-hydroxy-3-(1H-benzimidazol-2-ylamino)-3-oxopropyl]-5-[methyl(methylsulfonyl)amino]-N′-[(1R)-1-phenylethyl]-isophthalamide
To a 2 mL solution of (2R,3S)-3-{[3-[methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid obtained in Reference Example 27 64 mg (0.1 mmol), 2-aminobenzimidazole 27 mg (0.2 mmol), HOBt.H2O 31 mg (0.2 mmol) and 4-(dimethylamino)pyridine 2.4 mg (0.02 mmol) in N,N-dimethylformamide was added a polystyrene-supported carbodiimide (1.38 mmol/g) 181 mg (equivalent to carbodiimide 0.25 mmol) and the mixture was shaken overnight. After completion of the reaction, the mixture was filtered and the filtrate was extracted by adding ethyl acetate and 5% aqueous sodium carbonate solution. The organic layer was washed with an aqueous saturated sodium chloride solution and dried on the magnesium sulfate, filtered and concentrated. The concentrated residue was redissolved in chloroform 2 mL and thereto was added TFA 1 mL and the mixture was stirred at room temperature for 3 hours to remove the protecting group. After completion of the reaction, the mixture was concentrated and the concentrated residue was purified by HPLC fraction collector to give 32 mg (0.05 mmol) of the title compound (overall yields: 48%).

reactant | (2R,3S)-3-{[3-[methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid | CN(C=1C=C(C(=O)N[C@H]([C@H](C(=O)O)OC2OCCCC2)CC2=CC=CC=C2)C=C(C1)C(=O)N[C@H](C)C1=CC=CC=C1)S(=O)(=O)C | C33H39N3O8S
reactant | 2-aminobenzimidazole | 0.2 mmol, 27 mg | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.2 mmol, 31 mg | O | H2O
catalyst | 4-(dimethylamino)pyridine | 0.02 mmol, 2.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[(1S,2R)-1-Benzyl-2-hydroxy-3-(1H-benzimidazol-2-ylamino)-3-oxopropyl]-5-[methyl(methylsulfonyl)amino]-N′-[(1R)-1-phenylethyl]-isophthalamide | 0.05 mmol, 32 mg, 48% | C(C1=CC=CC=C1)[C@@H]([C@H](C(=O)NC1=NC2=C(N1)C=CC=C2)O)NC(C2=CC(C(=O)N[C@H](C)C1=CC=CC=C1)=CC(=C2)N(S(=O)(=O)C)C)=O | C35H36N6O6S
